Name:  ___                           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I kept thinking."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old ___ student with 
a past psychiatric history of bipolar disorder who was BIBA due 
to bizarre behavior. 

In the ED, patient was noted to be awake but not opening her 
eyes, refusing to answer questions, and resisting attempts to 
examine her. Psychiatry was consulted to assess for a potential 
psychiatric issue causing her behavior. 

On examination, the patient refuses to participate in interview. 
She is lying in bed, smiling, with her eyes closed. She does not 
respond to verbal or physical stimulation. 

On ___ Catatonia Rating Scale, the patient scores for 
mutism (3), immobility/stupor (3), grimacing/odd facial 
expressions (3) (smiling w/o reason or prompting), and 
withdrawal (3) (no eye contact).  

Spoke with the patient's friends, ___ (___) and ___ 
(___), who are friends from ___, where 
the patient goes to school. ___ reports that lately the 
patient has been under a lot of stress at school. She states 
that the patient feels like her parents are pressuring her. She 
state that the patient feels like she needs to be perfect. She 
notes that the patient had been taking antidepressant 
medication, but stopped due to weight gain. She is not sure what 
the antidepressant medication was. 

They state that on ___, the patient's mother stated that she 
videochatted with the patient, who seemed like her normal self. 
Yesterday, the patient went to school. She was practicing the 
piano as she normally would, but would not respond to her 
friends questions or participate in conversation.  They were 
worried about the patient, and so after the patient was not 
responding to calls or texts that evening they went to her 
apartment. They knocked on her door and the patient did not 
answer. Then they called her priest, who is a friend, who 
knocked down the door. The patient was sitting in her apartment, 
naked. The patient would not respond to them. They called the 
police, who called EMS. During this time, the patient made a 
comment that she "has to be perfect" 

The patient was given 1 mg IV Ativan. Soon afterwards, the 
patient was able to open her eyes on command. She was able to 
shake or head yes or no and answer questions with short 
responses. She answered "yes" when asked if it was difficult for 
her to speak. She answered "no" when asked if she remembered how 
she got to the hospital.

On interview at this time, Ms. ___ says she remembers the events 
leading to her hospitalization. She says one of her teachers 
gave her some feedback which prompted her to start thinking 
about her major (piano) and how she can become a better 
performer. She says she has been struggling to play the right 
sounds. She says piano used to be enjoyable for her when she was 
a kid, but now she has a lot of fear surrounding it- described 
fear about whether or not she wants music, fear if she is 
playing wrong or right, and if her expression is correct. She 
says yesterday she was sitting in her dorm room thinking about 
these things while her friends were calling her but she did not 
respond because she didn't want to be disturbed. She says she 
remembers the police coming into her apartment and also did not 
respond to them because she did not want to be disturbed. She 
says she was able to talk, but did not to. She also says she 
remembers being in the ED, meeting this writer. Again says she 
chose not to respond to anyone because her last hospitalization 
was "painful" and she did not want to be here. 

She denies any changes in her mood recently, but says for the 
past week she has felt more stressed out about school, as above. 
She says her father puts a lot of pressure on her and says 
things like "you have to be a ___, otherwise you'll have a 
dark life with no job or money". She also says ___ makes her feel 
guilty about the money she spent moving to the ___ and on 
college. She denies changes in sleep, describing 8 hours a 
night. Denies changes in appetite. Denies feelings of 
hopelessness. Does endorse racing thoughts about school/piano, 
as above. Denies any risky behaviors, denies changes in her 
energy level, denies grandiosity. She also she denies current, 
recent, or prior AVH. 
 
Psych ROS: As above
General ROS: All systems reviewed, endorses menstrual cramping, 
but otherwise negative.

ED Course:
Per nursing report, the patient's friends called EMS who had to 
force entry, found her naked in bed not responding. Friends 
reported to ___ tha over the past 3 mo, she had 3 episodes of 
3 days of no eating, no speaking to anyone, not leaving her 
home. Patient continued to be unresponsive and resistant to 
exam, but no behavioral issue otherwise. Later conversant after 
Ativan IV.

Medication admins:
___ 06:11 IV LORazepam 1 mg  
___ 06:49 IV LORazepam 1 mg 
___ 12:50 PO/NG LORazepam 1 mg
 
Past Medical History:
Past psychiatric history: 
-Patient states she is unaware of any psychiatric diagnoses
-Says she was hospitalized last year at ___. Says she was
hospitalized because she had a lot of anger that she needed to
release which made her crazy
-Denies having a psychiatrist or therapist currently. 
-Says she was on medication in the past but forgets names
-___ prior SAs or SIB
-Per Dr. ___ ___ consultation note: Reports 1 episode 
of
"mind spinning"and confusion similar to current episode at age
___. Presented to a clinic with father in ___. Was prescribed a
medication, which she essentially refused; she's unsure what
medication this was. Understood her dx to be "anxiety." Was not
hospitalized psychiatrically. Denies h/o SI, SIB, or SA. Denies
h/o violence. No current treaters. 

Past medical history: denies

Medications: denies
  
Allergies: NKDA
 
Social History:
___
Family History:
Family psychiatric history: unaware of any psychiatric diagnoses 
in family, no known SA in family
 
Physical Exam:
ADMISSION EXAM:
VS: T-98.2 BP-101/64 HR-83 RR-16 O2Sat-99   

General: young female in NAD. Well-nourished, well-developed. 
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical patellar 
reflexes. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: limited exam due to language/cultural barrier
 Wakefulness/alertness: Awake and alert
 Attention: MOYb with 0 errors
 Orientation: Oriented to person, time, ___ but not 
___
 Executive function (go-no go, Luria, trails, FAS): Not tested
 Memory: ___ registration, ___ recall after 5 min, no 
improvement with cues, long-term grossly intact
 Fund of knowledge: difficult to assess, intact to current and 
previous presidents
 Calculations: did not assess
 Abstraction: apple+orange="fruit" watch+ruler="we follow them"
bike+train="take people places" 
 Language: speaks broken ___ with an accent, appropriate to 
conversation

Mental Status:
 Appearance: Young Asian woman, black hair cut short, wearing 
hospital gown, appears well groomed; No apparent distress, 
 Behavior: Calm, cooperative, making appropriate eye contact, no 
psychomotor agitation or retardation
 Mood and Affect: "okay" / blunted affect overall, odd at times, 
smiling inappropriately
 Thought Process: mostly linear, coherent; becomes a bit 
tangential when discussing her relationship with her father
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or paranoia on this exam
 Judgment and Insight: poor/poor
.
DISCHARGE EXAM:
VS: T:97.7 BP:101/69 HR:90 RR:17 O2:95 
A: Well-groomed, good hygiene, NAD
B: Good eye contact, calm and cooperative, no psychomotor 
agitation/retardation
M/A: "Good", euthymic, mood congruent
S: Normal rate, volume, prosody
TP: Linear, goal and future oriented
TC: Denies current suicidal ideation or thoughts/urges to engage 
in self-harm or to harm others; no evidence of internal 
preoccupation or hallucinatory stimuli present; no delusional 
thought content expressed. 
C: Alert and oriented x 3, fluent ___ attentive to 
interview
I/J: Fair/Fair

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Pertinent Results:
___ 03:17AM BLOOD WBC-5.3 RBC-4.42 Hgb-12.0 Hct-37.2 MCV-84 
MCH-27.1 MCHC-32.3 RDW-13.9 RDWSD-42.7 Plt ___

___ 03:17AM BLOOD Neuts-69.7 ___ Monos-4.9* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-3.70 AbsLymp-1.27 
AbsMono-0.26 AbsEos-0.05 AbsBaso-0.02

___ 03:17AM BLOOD Glucose-77 UreaN-13 Creat-0.8 Na-144 
K-3.8 Cl-105 HCO3-15* AnGap-24*

___ 06:25AM BLOOD Calcium-8.7 Phos-4.4 Mg-1.9

___ 06:25AM BLOOD ALT-<5 AST-10 AlkPhos-41 TotBili-1.0

___ 06:25AM BLOOD TSH-6.7*

___ 12:45PM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-150* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM*

___ 12:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 12:45PM URINE UCG-NEGATIVE
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Ms. ___ was placed on 15 minute checks status and 
remained on that level of observation throughout admission while 
being unit restricted.
.
On admission, Ms. ___ refused to sign a conditional voluntary 
agreement and was admitted on a ___. That legal status 
remained in place until ___, at which time she signed a 
conditional voluntary agreement (Secion ___ & ___). That legal 
status remained in place through the remainder of 
hospitalization.
.
2. PSYCHIATRIC:
#) On admission, patient largely denies any psychiatric symptoms 
recently and minimized events leading to hospitalization, but 
did say she has felt under pressure and stressed by school and 
her father. Patient's account of events leading to
hospitalization was inconsistent with that given by EMS and 
patient's friends, suggesting possible confabulation in the 
setting of catatonia vs. minimization of symptoms. She denied 
all depressive symptoms as well as changes in energy, sleep,
appetite, and anxiety. She also denied symptoms of mania and 
assessment was negative for psychosis. On exam, she had an odd, 
overall blunted affect, at times smiling inappropriately and 
other times appearing angry. She became tangential at times 
during interview. Her diagnosis is unclear at this time; current 
presentation could be a decompensation of underlying mood 
disorder (she does carry diagnosis of bipolar disorder), 
presenting with catatonia.
.
Patient reported improvement in energy and cognition during 
hospital stay. Her affect also appeared brighter, more 
spontaneous, and more appropriate to situation, and behavior on 
interview became appropriate. Although patient was willing to 
complete lorazepam taper to treat catatonia, she was strongly 
against starting any other medication. After discussion 
regarding indications for outpatient mental health care, both to 
ensure safety and to explore many means of staying healthy (not 
just pharmacotherapy alone), patient agreed to follow-up with a 
psychiatrist and therapist after discharge.
.
On the day of discharge, patient denied suicidal and homicidal 
ideation. She exhibited improved spontaneous production of 
linear thought without loosening; she did not verbalize 
delusional thought content, nor did she verbalize thoughts of 
self-harm or harm to others. She did not appear to be internally 
preoccupied; she denied any perceptual disturbances. Judgment 
and insight improved.
.
MEDICATIONS STARTED ON ADMISSION
-lorazepam 1mg PO Q6Hrs, which was gradually tapered with last 
dose given on ___
.
4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute medical issues 
prevented admission to Deac 4. Additionally, she has no chronic 
medical issues requiring attention.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit. The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. She often attended 
these groups. Ms. ___ was visible on the milieu and appropriately 
interacted with staff and peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal and written permission for the team to 
contact her outpatient psychiatrist, Dr. ___ at 
___.  Dr. ___ was provided with a summary of 
Ms. ___ presentation to the ___ ED/___ 4. Ms. ___ did not 
have an outpatient therapist while admitted, but was referred to 
one upon discharge.
.
6. INFORMED CONSENT: 
*Medication: Ativan (lorazepam)
---Benefits: Treatment of catatonia 
---Adverse effects: Sedation, depression, dizziness, slurred 
speech, falling down, forgetfulness, confusion, paradoxical 
hyperexcitability/nervousness, respiratory depression 
(especially when taken with CNS depressants in overdose)
.
Ms. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. She 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above). Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Ms. ___ 
understood the above and consented to begin the medication.
.
7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself. Her static risk factors noted 
at that time include history of trauma and limited social 
supports. The modifiable risk factors identified were as such: 
disorganized and unpredictable behavior, medication 
noncompliance, lack of engagement with outpatient treatment, 
social withdrawal, and thought constriction.  These modifiable 
risk factors were addressed with acute stabilization in a safe 
environment on a locked inpatient unit, psychopharmacologic 
adjustments, psychotherapeutic interventions (OT groups, SW 
groups, individual therapy meetings with psychiatrists), and 
presence on a social milieu environment. Ms. ___ is being 
discharged with many protective factors, including willingness 
to engage with outpatient providers, no suicidal ideation, 
future-oriented thinking, and life satisfaction.  Patient 
demonstrated preserved capacity to engage in a meaningful 
discussion about safety planning about what to do if thoughts of 
self-harm, suicide, or worsening symptoms of bipolar disorder 
return (e.g. contact on call staff, call ___, or present to the 
ED). Overall, based on the totality of our assessment at this 
time, Ms. ___ is not at an acutely elevated risk of harm to self 
nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar I Disorder

 
Discharge Condition:
VS: T:97.7  BP:101/69  HR:90  RR:17  O2:95 
A: Well-groomed, good hygiene, NAD
B: Good eye contact, calm and cooperative, no psychomotor 
agitation/retardation
M/A: 'Good', euthymic, mood congruent
S: Normal rate, volume, prosody
TP: Linear, goal and future oriented
TC: Denies current suicidal ideation or thoughts/urges to engage 
in self-harm or to harm others; no evidence of internal 
preoccupation or hallucinatory stimuli present; no delusional 
thought content expressed. 
C: Alert and oriented x 3, fluent ___ attentive to 
interview
I/J: Fair/Fair

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___